US06117841
[S-(R*,R*)]-4-Methyl-2-piperidin-1-yl-pentanoic acid [2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-amide
(S)-2-Amino-3-(4-benzyloxy-phenyl)-N-tert-butyl-propionamide monohydrochloride (S)-4-Methyl-2-piperidin-1-yl-pentanoic acid monohydrobromide (0.493 g, 1.76 mmol) was mixed with dry DMF (4 mL) under nitrogen atmosphere and cooled to 0° C. in an ice-water bath. To this mixture were added in succession N,N-diisopropylethylamine (1.23 mL, 7.05 mmol ) and solid O-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium hexafluorophosphate (0.667 g, 1.76 mmol ). The resulting reaction mixture was stirred at that temperature for 30 minutes, solid (S)-2-amino-3-(4-benzyloxy-phenyl)-N-tert-butyl-propionamide monohydrochloride (0.639 g, 1.76 mmol) was then added. After stirring for, sequentially, 10 minutes at 0° C. and 45 minutes at ambient temperature, reaction mixture was mixed with 60 mL of diethyl ether; the resulting mixture was successively washed with saturated aqueous NaHCO3 solution (2×60 mL), brine (2×60 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording an viscous oil. The crude product was further purified by flash chromatography (40% EtOAc in hexane). Recrystallization from EtOAC/hexanes and subsequent drying under vacuum provided 0.4 g (45%) of the pure titled compound as a white crystalline solid.

reactant | (S)-2-Amino-3-(4-benzyloxy-phenyl)-N-tert-butyl-propionamide monohydrochloride (S)-4-Methyl-2-piperidin-1-yl-pentanoic acid monohydrobromide | 1.76 mmol, 0.493 g | Br.CC(C[C@@H](C(=O)O)N1CCCCC1)C.Cl.N[C@H](C(=O)NC(C)(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1
reactant | N,N-diisopropylethylamine | 7.05 mmol, 1.23 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium hexafluorophosphate | 1.76 mmol, 0.667 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | (S)-2-amino-3-(4-benzyloxy-phenyl)-N-tert-butyl-propionamide monohydrochloride | 1.76 mmol, 0.639 g | Cl.N[C@H](C(=O)NC(C)(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-Methyl-2-piperidin-1-yl-pentanoic acid [2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-amide | 0.4 g, 45% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(NC(C)(C)C)=O)NC(C(CC(C)C)N1CCCCC1)=O | C31H45N3O3
